US07138425B2
a) N-(2-Hydroxy-5-bromophenyl)-2-fluoro-5-nitrobenzamide
Prepared by the method of Example 15a), from 2-amino-4-bromophenol (752 mg, 4.0 mmol) and 2-fluoro-5-nitrobenzoyl chloride (814 g, 4.0 mmol) the subtitle compound was obtained. The product was used directly in the next step without purification.

reactant | 2-amino-4-bromophenol | 4.0 mmol, 752 mg | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
reactant | 2-fluoro-5-nitrobenzoyl chloride | 4.0 mmol, 814 g | FC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3ClFNO3
product | N-(2-Hydroxy-5-bromophenyl)-2-fluoro-5-nitrobenzamide | OC1=C(C=C(C=C1)Br)NC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C13H8BrFN2O4
